US04632938
In 15 ml of toluene was dissolved 2.6 g of 2-fluoro-4-(1,1,2-trifluoro-2-chloroethylthio)aniline, and 1.8 g of 2,6-difluorobenzoylisocyanate was added dropwise to the solution at room temperature (20° to 25° C.). After the reaction was allowed to proceed at the same temperature for 1 hour, the crystals, which separated out, were recovered by filtration and washed wiht toluene to give 3.6 g of N-(2,6-difluorobenzoyl)-N'-[2-fluoro-4-(1,1,2-trifluoro-2-chloroethylthio)phenyl]urea (Compound No. 39), m.p. of 172°-173° C.

reactant | 2-fluoro-4-(1,1,2-trifluoro-2-chloroethylthio)aniline | 2.6 g | FC1=C(N)C=CC(=C1)SC(C(Cl)F)(F)F | C8H6ClF4NS
reactant | 2,6-difluorobenzoylisocyanate | 1.8 g | FC1=C(C(=O)N=C=O)C(=CC=C1)F | C8H3F2NO2
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2,6-difluorobenzoyl)-N'-[2-fluoro-4-(1,1,2-trifluoro-2-chloroethylthio)phenyl]urea | 3.6 g | FC1=C(C(=O)NC(=O)NC2=C(C=C(C=C2)SC(C(Cl)F)(F)F)F)C(=CC=C1)F | C16H9ClF6N2O2S
